data/mechanisms/records/IMS4-EQ4.25.json
{"mechanism_id": "IMS4-EQ4.25", "species": [{"species_id": "acetone_canonical_resonance_cation", "mapped_smiles": "[CH3:1][C+:2]([CH3:3])[O:4]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "methyl_cation", "mapped_smiles": "[CH3+:1]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "acetyl_radical", "mapped_smiles": "[CH3:3][C:2]=[O:4]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["acetone_canonical_resonance_cation"]}, {"state_id": "state_products", "species_ids": ["methyl_cation", "acetyl_radical"]}], "steps": [{"step_id": "step_inductive_cleavage", "from_state": "state_precursor", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 1]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 1]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}, {"source": {"type": "atom", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [2, 4]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_book", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_cleavage", "support_type": "textbook_proposed", "locator": {"page": 65, "equation": "4.25", "figure": null, "panel": null, "section": "4.7"}, "confidence": 0.8, "curator_note": "Generic carbonyl scheme (R, R', CR2): no m/z or intensity printed. The text says electron-pair attraction to the charge site yields the canonical resonance structure R2C+-O• and that 'inductive cleavage of this then gives the alkyl ion and acyl radical'; this canonical form is used here as the precursor. Book draws 1 arc on this canonical form: a single fishhook at the C-R bond. Encoded moves <1> and <2> both originate at that C-R bond (the drawn fishhook), and move <3> (O odd electron into the new C=O pi bond) is an implicit hook required for electron balance, not drawn on this form. (A separate full 2-electron arrow is drawn on the molecular-ion resonance form R2C=O+• shown to its left.) Instantiated as acetone (R=R'=CH3): products CH3+ + CH3-C•=O are the exact complements of the acetone alpha-cleavage of Eq 4.14 (CH3• + CH3CO+), as the text notes. m/z 15.0235 for CH3+ is curator-computed from this instantiation, not printed in the book."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 58.0419, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_methyl_cation", "species_id": "methyl_cation", "step_id": "step_inductive_cleavage", "observed_mz": 15.0235, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.6}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-25T00:00:00Z", "modified_at": "2026-07-25T00:00:00Z"}}
